US07608627B2
(5-Chloro-1H-pyrrolo[2,3-c]pyridin-2-yl)methanol (225 mg, 1.23 mmol) was dissolved in methylene chloride (25 mL). Manganese dioxide (1.07 g, 12.3 mmol) was added and the reaction mixture was stirred for 4 days. The reaction mixture was filtered through diatomaceous earth and the filter cake was washed several times with hot ethyl acetate. The filtrate was concentrated to give 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxaldehyde (156 mg, 70%) as a tan solid: 1H NMR (300 MHz, Acetone-d6) δ7.43 (1H, s), 7.80 (1H, s), 8.77 (1H, s), 10.08 (1H, s), 11.49 (1H, br s).

reactant | (5-Chloro-1H-pyrrolo[2,3-c]pyridin-2-yl)methanol | 1.23 mmol, 225 mg | ClC=1C=C2C(=CN1)NC(=C2)CO | C8H7ClN2O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | 12.3 mmol, 1.07 g | [O-2].[O-2].[Mn+4]
product | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxaldehyde | 156 mg, 70% | ClC=1C=C2C(=CN1)NC(=C2)C=O | C8H5ClN2O
